US05506256
C) (2S)-1-[N-(Benzylaminocarbonyl)-L-prolyl]-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine
By the same procedure as in Example 21-C), while using (2S)-1-[N-(tert-butoxycarbonyl)-L-prolyl]-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine (274 mg) and benzyl isocyanate (89 μl), there was obtained 243 mg of the title compound.

reactant | (2S)-1-[N-(tert-butoxycarbonyl)-L-prolyl]-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine | 274 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COCC2=CC=CC=C2)O)CCC1 | C23H34N2O5
reactant | benzyl isocyanate | 89 μl | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | (2S)-1-[N-(Benzylaminocarbonyl)-L-prolyl]-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine | 243 mg | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COCC2=CC=CC=C2)O)CCC1 | C26H33N3O4
